2102-06-01 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-5-31**] 03:00 PM
 MULTI LUMEN - START [**2102-5-31**] 04:40 PM
 ARTERIAL LINE - START [**2102-5-31**] 06:04 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-5-31**] 05:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-1**] 12:18 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2102-6-1**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-1**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 62 (59 - 82) bpm
   BP: 100/45(65) {80/41(59) - 180/80(69)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.5 kg (admission): 58.5 kg
    CVP: 12 (9 - 23)mmHg
   Total In:
                                                                  5,594 mL
                                                                    339 mL
   PO:
   TF:
   IVF:
                                                                  5,594 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,594 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.28/55/121/23/-1
   Physical Examination
   GEN:
   HEENT:
   NECK:
   PULM:
   CARD:
   ABD:
   EXT:
   NEURO:
   Labs / Radiology
   251 K/uL
   8.9 g/dL
   113 mg/dL
   6.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   48 mg/dL
   103 mEq/L
   139 mEq/L
   30.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-5-31**]  12:51 PM
                             [**2102-5-31**]  03:53 PM
                             [**2102-5-31**]  04:34 PM
                             [**2102-6-1**]  12:45 AM
                             [**2102-6-1**]  12:51 AM
   WBC
   12.7
   9.7
   Hct
   31.1
   30.1
   Plt
   261
   251
   Cr
   6.5
   6.8
   TropT
   0.82
   TCO2
   31
   29
   27
   Glucose
   110
   113
   Other labs: PT / PTT / INR:16.8/58.8/1.5, CK / CKMB /
   Troponin-T:22//0.82, Differential-Neuts:89.1 %, Lymph:4.1 %, Mono:6.4
   %, Eos:0.3 %, Lactic Acid:0.4 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.4 mg/dL
   Assessment and Plan
   65 year old male with a history of diastolic CHF (EF > 60%), CAD s/p
   CABG in [**2079**] and STEMI [**2102-5-19**] with three stents placed, ESRD on
   hemodialysis s/p failed transplant and known chronic bilateral pleural
   effusions with associated trapped lung now transferred to the MICU for
   refractory hypotension and worsening oxygen requirement.
   Shock:  Most likely etiology is septic shock.  No evidence of
   hypovolemia or hemorrhage.  Echocardiogram without change from priors
   making cardiogenic and obstructive shock unlikely.  Hemodynamic change
   occurred in the setting of low grade fevers and rising WBC count.  Most
   likely etiology would be pneumonia although blood stream infection also
   possible given that he is a dialysis patient. He now has received 5 L
   normal saline and blood pressure is refractory despite maximum dose
   peripheral dopamine.
   - subclavian line now in place
   - continue dopamine and add levophed for blood pressure support
   - IVF to maintain CVP > [**11-27**], MAP > 65, cannot monitor urine output
   given ESRD
   - measure mixed venous O2 saturation and consider dobutamine
   - guaiac all stools
   - continue vancomycin and zosyn for hospital acquired pneumonia
   coverage
   - follow up cultures from [**Hospital3 **]
   - blood and sputum cultures
   - will check random cortisol and consider cortisol stimulation since on
   chronic steroids
   Pleural Effusions/Hypoxia:  Most likely related to pleural effusions.
   No clear evidence of heart failure on exam.  No evidence of expanding
   pneumothorax on new xray. Unlikely pulmonary embolism given chronic
   nature although he has not had a recent CTA or VQ scan.  Pulmonary
   consult service and thoracics have been following.  He underwent
   thoracentesis on [**2102-5-29**] with reaccumulation of fluid.  Fluid studies
   consistent with transudate although no pH or gram stain sent.
   - currently unable to receive dialysis because of hypotension
   - will continue to monitor volume status closely
   - consider repeat CT scan if worsening given known loculated effusions
   and concern for development of empyema
   - continue vancomycin and zozyn for HAP
   Coronary Artery Disease:: s/p recent posterior MI with PCI and three
   vision stents complicated by vfib arrest requiring shocks. Currently
   chest pain free.   New echocardiogram without evidenence of post-MI
   complications. EKG with new TWI but no ST segment changes.  Repeat
   cardiac enzymes with flat CKs.
   - holding carvedilol
   - cont ASA 325mg
   - cont Plavix 75mg
   - cont pravastatin
   - monitor on telemetry
   Chronic diastolic congestive heart failure:
   - holding carvedilol
   - holding hydralaxine and isosorbide
   - holding dialysis
   Atrial Fibrillation: Currently in sinus rhythm.
   - on telemetry
   - heparin gtt for anticoagulation
   - continue aspirin
   - continue digoxin
   ESRD on HD s/p failed transplant:
   - cont sevelamer
   - cont prednisone and fluconazole
   Gout: Stable
   - continue allopruinol 100mg PO
   Recurrent [**Female First Name (un) **] esophagitis
   - continue fluconazole
   Depression:
   - continue celexa
   ICU Care
   Nutrition: Cardiac, low potassium diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-5-31**] 12:59 PM
   18 Gauge - [**2102-5-31**] 01:01 PM
   Multi Lumen - [**2102-5-31**] 04:40 PM
   Arterial Line - [**2102-5-31**] 06:04 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  With patient
   Code status: Full code
   Disposition: ICU care for now

2102-06-01 09:53:00 Physician Attending Progress Note
Chief Complaint: HOTN/septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with CAD, diastolic CHF, ESRD on HD, presented from floor
   with leukocytosis, HOTN, septic shock.   Has gone up on levo and down
   on dopa.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-5-31**] 03:00 PM
 MULTI LUMEN - START [**2102-5-31**] 04:40 PM
 ARTERIAL LINE - START [**2102-5-31**] 06:04 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-5-31**] 05:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-1**] 08:32 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2102-6-1**] 02:20 AM
   Other medications:
   allopurinol
   celexa
   fluconazole
   prilosec
   prednisone
   pravastatin
   asa
   norepinephrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-1**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 61 (59 - 82) bpm
   BP: 103/47(67) {80/41(59) - 180/80(69)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.5 kg (admission): 58.5 kg
   CVP: 12 (9 - 23)mmHg
   Total In:
                                                                  5,594 mL
                                                                    618 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  5,594 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,594 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.26/50/123/23/-4
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, UE edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   251 K/uL
   113 mg/dL
   6.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   48 mg/dL
   103 mEq/L
   139 mEq/L
   30.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-5-31**]  12:51 PM
                             [**2102-5-31**]  03:53 PM
                             [**2102-5-31**]  04:34 PM
                             [**2102-6-1**]  12:45 AM
                             [**2102-6-1**]  12:51 AM
                             [**2102-6-1**]  09:08 AM
   WBC
   12.7
   9.7
   Hct
   31.1
   30.1
   Plt
   261
   251
   Cr
   6.5
   6.8
   TropT
   0.82
   TCO2
   31
   29
   27
   23
   Glucose
   110
   113
   Other labs: PT / PTT / INR:16.8/58.8/1.5, CK / CKMB /
   Troponin-T:22//0.82, Differential-Neuts:89.1 %, Lymph:4.1 %, Mono:6.4
   %, Eos:0.3 %, Lactic Acid:0.4 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.4 mg/dL
   Assessment and Plan
   HOTN/septic shock.  CVP 11-13, so seems less likely to respond to
   fluids.  Will check SvO2 from line to get a sense of his cardiac
   output.
   Unclear what infection may have caused this as now clear source
   although he could have PNA that is difficult to assess given his
   pleural
   effusions.  Will continue empiric broad coverage.
   Will start stress dose steroids as he is on chronic low dose prednisone
   Hypercarbia:  must be due to some level of restriction with trapped
   can eat PO diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-5-31**] 12:59 PM
   18 Gauge - [**2102-5-31**] 01:01 PM
   Multi Lumen - [**2102-5-31**] 04:40 PM
   Arterial Line - [**2102-5-31**] 06:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2102-06-02 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Titrated down on pressors overnight, no events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-6-1**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-2**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-2**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 61 (61 - 67) bpm
   BP: 105/43(65) {93/43(62) - 123/53(78)} mmHg
   RR: 16 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.5 kg (admission): 58.5 kg
    CVP: 10 (10 - 21)mmHg
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  1,755 mL
                                                                    249 mL
   PO:
                                                                    510 mL
   TF:
   IVF:
                                                                  1,245 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,755 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.30/40/108/22/-5
   Physical Examination
   GEN: NAD, lying in bed, appears fatigued
   HEENT: PERRL, EOMI
   NECK: Supple
   PULM: left subclavian CVC
   CARD: RR, nl S1, prominent S2, II/VI murmur at LLSB
   ABD: thin, BS+, NT, ND
   EXT: thin, multiple sores, some weeping
   NEURO: Patient oriented x 3, though slightly slow in responses
   Labs / Radiology
   254 K/uL
   8.9 g/dL
   194 mg/dL
   8.1 mg/dL
   22 mEq/L
   4.4 mEq/L
   59 mg/dL
   102 mEq/L
   136 mEq/L
   30.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2102-5-31**]  12:51 PM
                             [**2102-5-31**]  03:53 PM
                             [**2102-5-31**]  04:34 PM
                             [**2102-6-1**]  12:45 AM
                             [**2102-6-1**]  12:51 AM
                             [**2102-6-1**]  09:08 AM
                             [**2102-6-1**]  03:32 PM
                             [**2102-6-2**]  04:07 AM
                             [**2102-6-2**]  04:29 AM
   WBC
   12.7
   9.7
   10.9
   Hct
   31.1
   30.1
   30.3
   Plt
   261
   251
   254
   Cr
   6.5
   6.8
   8.1
   TropT
   0.82
   TCO2
   31
   29
   27
   23
   24
   20
   Glucose
   110
   113
   165
   194
   Other labs: PT / PTT / INR:14.8/64.5/1.3, CK / CKMB /
   Troponin-T:22//0.82, Differential-Neuts:89.1 %, Lymph:4.1 %, Mono:6.4
   %, Eos:0.3 %, Lactic Acid:0.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.4 mg/dL
   Assessment and Plan
   65 year old male with a history of diastolic CHF (EF > 60%), CAD s/p
   CABG in [**2079**] and STEMI [**2102-5-19**] with three stents placed, ESRD on
   hemodialysis s/p failed transplant and known chronic bilateral pleural
   effusions with associated trapped lung now transferred to the MICU for
   refractory hypotension and worsening oxygen requirement.
   # Shock:
   Most likely etiology is septic shock.  Most likely etiology would be
   pneumonia although blood stream infection also possible given that he
   is a dialysis patient. Patient liberated from dopamine and patient had
   increasing norepi requirement overnight. Does not appear to be
   cardiogenic shock given unimpressive TTE from [**2102-5-31**]. Patient on low
   dose prednisone and random cortisol yesterday was 11.5.  Improved blood
   pressures, weaned neo and levo.
   - continue vancomycin and zosyn for hospital acquired pneumonia
   coverage
   - follow-up cultures from [**Hospital3 **]
   - follow-up cultures
   - start to taper hydrocortisone IV 50 mg Q6H to q12
   # Pleural Effusions/Hypoxia:
   Most likely related to pleural effusions. Oxygen requirement down to 3L
   by nasal cannula and dyspnea is resolved.  Stable resp status off
   pressors.
   - closely monitor ABGs given propensity for patient to hypoventilate,
   likely related to restrictive disase in setting of chronic pleural
   effusions and trapped lung.
   - HD today, tolerating well
   #Coronary Artery Disease:
   s/p recent posterior MI with PCI and three vision stents complicated by
   vfib arrest requiring shocks. Currently chest pain free.   New
   echocardiogram without evidenence of post-MI complications. EKG with
   new TWI but no ST segment changes.  Repeat cardiac enzymes with flat
   CKs.
   - holding carvedilol
   - cont ASA 325mg
   - cont Plavix 75mg
   - cont pravastatin
   - monitor on telemetry
   # Chronic diastolic congestive heart failure:
   - holding carvedilol
   - holding hydralaxine and isosorbide
   - holding dialysis
   # Atrial Fibrillation:
   Currently in sinus rhythm.
   - on telemetry
   - heparin gtt for anticoagulation
   - continue aspirin
   - continue digoxin
   # ESRD on HD s/p failed transplant:
   - HD today.
   - cont sevelamer
   - cont prednisone and fluconazole
   # Gout: Stable
   - continue allopruinol 100mg PO
   # Recurrent [**Female First Name (un) **] esophagitis
   - continue fluconazole
   # Depression:
   - continue celexa
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-5-31**] 12:59 PM
   Multi Lumen - [**2102-5-31**] 04:40 PM
   Arterial Line - [**2102-5-31**] 06:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-06-02 11:23:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with recent NSTEMI, CAD,  presented with fevers and septic
   shock.    Has done well.  Levophed weaned to off.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-6-1**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-2**] 08:41 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   allopurinol
   fluconazole
   celexa
   pravastatin
   renojel
   asa
   plavix
   hydrocort 50mg q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-2**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 62 (60 - 67) bpm
   BP: 125/51(77) {93/42(62) - 125/53(78)} mmHg
   RR: 24 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 63.5 kg (admission): 58.5 kg
   CVP: 10 (10 - 21)mmHg
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  1,755 mL
                                                                    764 mL
   PO:
                                                                    510 mL
                                                                    355 mL
   TF:
   IVF:
                                                                  1,245 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,755 mL
                                                                    764 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.30/40/108/22/-5
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   254 K/uL
   194 mg/dL
   8.1 mg/dL
   22 mEq/L
   4.4 mEq/L
   59 mg/dL
   102 mEq/L
   136 mEq/L
   30.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2102-5-31**]  12:51 PM
                             [**2102-5-31**]  03:53 PM
                             [**2102-5-31**]  04:34 PM
                             [**2102-6-1**]  12:45 AM
                             [**2102-6-1**]  12:51 AM
                             [**2102-6-1**]  09:08 AM
                             [**2102-6-1**]  03:32 PM
                             [**2102-6-2**]  04:07 AM
                             [**2102-6-2**]  04:29 AM
   WBC
   12.7
   9.7
   10.9
   Hct
   31.1
   30.1
   30.3
   Plt
   261
   251
   254
   Cr
   6.5
   6.8
   8.1
   TropT
   0.82
   TCO2
   31
   29
   27
   23
   24
   20
   Glucose
   110
   113
   165
   194
   Other labs: PT / PTT / INR:14.8/64.5/1.3, CK / CKMB /
   Troponin-T:22//0.82, Differential-Neuts:89.1 %, Lymph:4.1 %, Mono:6.4
   %, Eos:0.3 %, Lactic Acid:0.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.4 mg/dL
   Assessment and Plan
   HOTN/septic shock:  Unclear cause, may have been PNA, so will treat
   empirically for 8 days with vanco and zosyn
   chronic hypoxemia/pleural effusions:  on 3-4L NC doing well
   ESRD on HD:  tolerating HD today
   CAD:  Continue ASA and plavix
   chronic diastolic HF:  holding carvedilol due to HOTN
   AF:  On heparin, rate controlled
   failed renal transplant:  Can start tapering stress dose steroids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-5-31**] 12:59 PM
   Multi Lumen - [**2102-5-31**] 04:40 PM
   Arterial Line - [**2102-5-31**] 06:04 PM
   Comments: will hold heparin to remove central line.
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes